* C:\Users\mcho\Desktop\ml_digital_circuit_verification\main.asc
XX1 in out P001 0 inv_20_10 params: INV_20_10
V1 P001 0 1
V2 in 0 PULSE(0 1 0 10n 1p 10n 20n)

* block symbol definitions
.subckt inv_20_10 In Out VDD GND
M1 Out In GND GND N_50n l=500n w=950n
M2 VDD In Out VDD P_50n l=500n w=1450n
.include cmosedu_models.txt
.ends inv_20_10

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\mcho\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 10n 0 0.001n
.backanno
.end
